US06207669B1
((5-(4-(4-Benzyloxy-phenylamino)-pyrido[3,4-d]pyrimidine-6yl)-furan-2-ylmethyl)-amino)-acetic acid hydrochloride
((5-(4-(4-Benzyloxy-phenylamino)-pyrido[3,4-d]pyrimidin-6-yl)-furan-2-ylmethyl)-amino)acetic acid methyl ester hydrochloride (0.04 g) was suspended in acetone (5 ml) and 2N sodium hydroxide solution (5 ml) added. The resulting solution was stirred at room temperature for 30 mins. The acetone was removed under vacuum and the solution acidified with 2N HCl. The mixture was chilled in an ice-bath and the precipitate filtered off and washed with a little cold water and then acetone. The residue was dried at 60° C. under vacuum to give the product as an orange solid (0.03 g); δH [2H6]-DMSO 10.30 (1H, b), 9.10 (1H, s), 8.71 (11H, s), 8.59 (11H, s), 7.75 (2H, d), 7.53−7.28 (5H, m), 7.15−7.00 (3H, m), 6.62 (1H, d), 5.12 (2H, s), 4.07 (2H, s); m/z 482 (M+1)+.

reactant | ((5-(4-(4-Benzyloxy-phenylamino)-pyrido[3,4-d]pyrimidin-6-yl)-furan-2-ylmethyl)-amino)acetic acid methyl ester hydrochloride | 0.04 g | Cl.COC(CNCC=1OC(=CC1)C1=CC2=C(N=CN=C2NC2=CC=C(C=C2)OCC2=CC=CC=C2)C=N1)=O
reactant | sodium hydroxide | 2N, 5 ml | [OH-].[Na+]
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | ((5-(4-(4-Benzyloxy-phenylamino)-pyrido[3,4-d]pyrimidine-6yl)-furan-2-ylmethyl)-amino)-acetic acid hydrochloride | 0.03 g | Cl.C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC=1C2=C(N=CN1)C=NC(=C2)C2=CC=C(O2)CNCC(=O)O | InChI=1S/C27H23N5O4.ClH/c33-26(34)15-28-13-21-10-11-25(36-21)23-12-22-24(14-29-23)30-17-31-27(22)32-19-6-8-20(9-7-19)35-16-18-4-2-1-3-5-18;/h1-12,14,17,28H,13,15-16H2,(H,33,34)(H,30,31,32);1H
